US09278931B2
D) tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate
To a solution of 2,2,2-trichloroethyl(4-{trans-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]cyclopropyl}phenyl)-carbamate (15.9 g) in THF (166 mL) were added zinc powder (32.6 g) and acetic acid (5 mL). The reaction mixture was stirred at room temperature for 5 hr, 1N aqueous sodium hydroxide solution (100 mL) and ethyl acetate (500 mL) were added, and the mixture was filtered through celite. The organic layer was separated from the mother liquor, washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, hexane/ethyl acetate) to give the title compound (6.83 g).

reactant | 2,2,2-trichloroethyl(4-{trans-2-[(tert-butoxycarbonyl)(cyclopropylmethyl)amino]cyclopropyl}phenyl)-carbamate | 15.9 g | ClC(COC(NC1=CC=C(C=C1)[C@H]1[C@@H](C1)N(CC1CC1)C(=O)OC(C)(C)C)=O)(Cl)Cl | C21H27Cl3N2O4
reactant | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
reactant | sodium hydroxide | 1N, 100 mL | [OH-].[Na+]
reactant | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 166 mL | C1CCOC1 | C4H8O
catalyst | zinc | 32.6 g | [Zn] | Zn
product | tert-butyl [trans-2-(4-aminophenyl)cyclopropyl](cyclopropylmethyl)carbamate | 6.83 g | NC1=CC=C(C=C1)[C@H]1[C@@H](C1)N(C(OC(C)(C)C)=O)CC1CC1 | C18H26N2O2
